* C:\Users\gratt\Documents\Uni\Session4\App4\S4_APP4_Info\s4iapp4_prob\inv_test.asc
V1 vdd 0 {vv}
V2 vin 0 PULSE(0 {vv} 10p 1p 1p 300p 600p 3)
XX1 vin out vdd 0 inv params: ll=180n wn={nnw} wp={nnw*mp}
C1 out 0 1f

* block symbol definitions
.subckt inv In _Q vdd vss
M1 _Q In vss vss NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M2 vdd In _Q vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
.lib BU_180nm.lib
.ends inv

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\gratt\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.param vv=1.8 nnw=180n mp=2.26
.lib BU_180nm.lib
.tran 1200p
.param voh=vv*0.9 vol=vv*0.1
.meas tran t1 find time when v(out)={vol} rise 1
.meas tran t2 find time when v(out)={voh} rise 1
.meas tran t3 find time when v(out)={vol} fall 1
.meas tran t4 find time when v(out)={voh} fall 1
.meas tran uptime param abs(t2-t1)
.meas tran downtime param abs(t4-t3)
.meas tran upslope param abs({voh}-{vol})/abs(t2-t1)
.meas tran downslope param abs({voh}-{vol})/abs(t4-t3)
.meas tran ratio param upslope/downslope
.backanno
.end
