* C:\Users\gratt\Documents\Uni\Session4\App4\S4_APP4_Info\s4iapp4_prob\pad_buffer_test.asc
V1 vdd 0 {vv}
V2 vin 0 PULSE(0 {vv} 1000p 1p 1p 2000p 4000p 50)
C1 out 0 1.5p
XX11 vin out vdd 0 pad_buffer

* block symbol definitions
.subckt pad_buffer In out vdd vss
XX1 in N001 vdd vss inv params: ll=180n wn={nnw} wp={nnw*mp}
XX2 N001 N002 vdd vss inv params: ll=180n wn={nnw*fac} wp={nnw*mp*fac}
XX3 N002 N003 vdd vss inv params: ll=180n wn={nnw*fac*fac} wp={nnw*mp*fac*fac}
XX4 N003 N004 vdd vss inv params: ll=180n wn={nnw*fac*fac*fac} wp={nnw*mp*fac*fac*fac}
XX5 N004 N005 vdd vss inv params: ll=180n wn={nnw*fac*fac*fac*fac} wp={nnw*mp*fac*fac*fac*fac}
XX6 N005 out vdd vss inv params: ll=180n wn={nnw*fac*fac*fac*fac*fac} wp={nnw*mp*fac*fac*fac*fac*fac}
.param wpad=800u fac=3.38 vv=1.8 nnw=180n mp=2.26
.lib BU_180nm.lib
.ends pad_buffer

.subckt inv In _Q vdd vss
M1 _Q In vss vss NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M2 vdd In _Q vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
.lib BU_180nm.lib
.ends inv

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\gratt\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.param vv=1.8
.lib BU_180nm.lib
.tran 0 100000p 0 10p
.backanno
.end
